US08026366B2
A mixture of 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (245 mg, 1.0 mmol), cesium carbonate (1.3 g, 4.0 mmol), tetrabutylammonium bromide (322 mg, 1.0 mmol), and DMF (15 mL) was stirred at 75° C. for 10 minutes. 2-Chloro-5-(chloromethyl)pyridine (178 mg, 1.1 mmol) was added in portions over a period of 30 minutes. The reaction mixture was stirred for 1 hour and then the heat source was removed. The reaction mixture was diluted with water (200 mL) and then filtered. The isolated solid was rinsed with water and then dried to provide an off white powder. This material was dissolved in dichloromethane and then purified by HPFC eluting with a gradient of 0-15 CMA in chloroform 700 mL and then with 15% CMA in chloroform over 600 mL. The resulting solid was slurried with hot 10:1 acetonitrile:methanol to provide 216 mg of 7-[(6-chloropyridin-2-yl)methoxy]-2-ethylthiazolo[4,5-c]quinolin-4-amine as a pale yellow solid, mp 229.0-230.0° C. MS (APCI) m/z 371 (M+H)+; Anal. calcd for C18H15ClN4OS.0.1CHCl3: C, 57.06; H, 4.32; N, 14.63. Found C, 56.79; H, 3.98; N, 14.63.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 1.0 mmol, 245 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 4.0 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | 2-Chloro-5-(chloromethyl)pyridine | 1.1 mmol, 178 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
catalyst | tetrabutylammonium bromide | 1.0 mmol, 322 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-[(6-chloropyridin-2-yl)methoxy]-2-ethylthiazolo[4,5-c]quinolin-4-amine | 216 mg | ClC1=CC=CC(=N1)COC=1C=CC=2C3=C(C(=NC2C1)N)N=C(S3)CC | C18H15ClN4OS
